US08981111B2
To a stirred suspension of 1-(3,4-dichloro-1,2-thiazol-5-yl)-N-hydroxy-1-(3-thienyl)methanimine (1.69 g, 6.06 mmol), 2-(chloromethyl)pyrimidin-4-amine (957 mg, 6.66 mmol) and potassium iodide (1.01 g, 6.06 mmol) in acetonitrile (15 mL) at 0° C. was added 1,5-diazabicyclo(4.3.0)non-5-ene (1.52 mL, 12.7 mmol). The mixture was stirred 10 min at 0° C., then overnight at room temperature. After dilution of the reaction mixture with water and extraction with ethyl acetate, the combined organic layers were dried over MgSO4, concentrated in vacuo, and the residue purified on silica gel to afford 2-[({[(3,4-dichloro-1,2-thiazol-5-yl)(3-thienyl)methylene]amino}oxy)methyl]pyrimidin-4-amine [150 mg, yield 3%].

reactant | 1-(3,4-dichloro-1,2-thiazol-5-yl)-N-hydroxy-1-(3-thienyl)methanimine | 6.06 mmol, 1.69 g | ClC1=NSC(=C1Cl)C(=NO)C1=CSC=C1 | C8H4Cl2N2OS2
reactant | 2-(chloromethyl)pyrimidin-4-amine | 6.66 mmol, 957 mg | ClCC1=NC=CC(=N1)N | C5H6ClN3
reactant | potassium iodide | 6.06 mmol, 1.01 g | [I-].[K+]
reactant | 1,5-diazabicyclo(4.3.0)non-5-ene | 12.7 mmol, 1.52 mL | N12CCCN=C2CCC1 | C7H12N2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 2-[({[(3,4-dichloro-1,2-thiazol-5-yl)(3-thienyl)methylene]amino}oxy)methyl]pyrimidin-4-amine | 150 mg, yield 3% | ClC1=NSC(=C1Cl)C(C1=CSC=C1)=NOCC1=NC=CC(=N1)N | C13H9Cl2N5OS2
